US07528143B2
4-(4-Amino-2-methoxycarbonyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (Intermediate 54)
To a solution of 4-(2-methoxycarbonyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (1.0 g, 2.7 mmol) in MeOH (30 mL) was added 10 wt % Pd/C (0.1 equiv by wt) under argon atmosphere. The mixture was evacuated and then refilled with hydrogen (3 cycles) and stirred at room temperature for 2 h. The heterogeneous reaction mixture was filtered through a pad of Celite, washed with MeOH and concentrated in vacuo. The crude amino-compound was used in the next step without purification. MS (ES+): m/z 336 (M+H)+.

reactant | 4-(2-methoxycarbonyl-4-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.7 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)OC | C17H23N3O6
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.1 equiv | [Pd] | Pd
product | 4-(4-Amino-2-methoxycarbonyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N)C(=O)OC | C17H25N3O4
